US09217002B2
Synthesis of 2-Diethylaminoacetamide
2 g of 2-bromoacetamide (0.015 mol) were slowly added to diethylamine (40 mL, 0.387 mol) and the reaction mixture was heated to reflux for 20 h. After cooling to room temperature, the reaction mixture was filtered and precipitate discarded. The filtrate was concentrated under vacuum to result in slightly yellow solid. This solid was dissolved in chloroform (10 mL) and washed with aqueous saturated solution of Na2CO3 (3×10 mL). Combined organic phases were dried over Na2S04. The filtrate was concentrated under vacuum to result in 1.49 g (79% yield) of light yellow solid, which was azeotropically dried with benzene prior to use in the following reactions. 1H NMR (500 MHz, CDCl3, J=Hz): δ 6.19 (2H, s, br, NH2), 3.01 (2H, s, CH2), 2.56 (4H, q, J 7.2, NEt2), 1.04 (6H, t, J 7.3, NEt2). 13C NMR (125.8 MHz, CDCl3): δ 175.6 (C═O), 57.4 (CH2), 48.6, 12.3 (NEt2). HRMS (ESIMS) m/z for C6H15N2O [M+H]+ calcd 131.1184, found 131.0907.

reactant | 2-bromoacetamide | 0.015 mol, 2 g | BrCC(=O)N | C2H4BrNO
reactant | diethylamine | 0.387 mol, 40 mL | C(C)NCC | C4H11N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Diethylaminoacetamide | 79% yield | C(C)N(CC(=O)N)CC | C6H14N2O
